US07754737B2
Step 5. (S)-2-(Trimethylsilyl)ethyl 2-amino-3-cyclohexylpropylcarbamate
(S)-tert-butyl 1-(2-(trimethylsilyl)ethoxycarbonylamino)-3-cyclohexylpropan-2-ylcarbamate (8.5 g, 0.0213 mol) was dissolved into a minimal volume of ethyl ether (120 mL) and added to a solution of tosic acid (4.46 g, 0.023 mol) in 25 mL of absolute EtOH. This solution was placed on a rotary evaporator and ethyl ether was removed at ambient temp. The flask was then lowered into the water bath (temperature: 60° C.) and the selective de-protection of the Boc group proceeded concurrently with removal of the remainder of solvent. The reaction was completed by 2 h and gave an off-white solid. This material was cooled to rt and dissolved in 100 mL of a mixture EtOH:H2O (1:1, v/v). This was washed with hexanes:EtOAc (5:1, v/v, 3×12 mL), basified with 1N NaOH (pH>10), and extracted with EtOAc (3×50 mL). The combined organic extracts were washed (3×5 mL 1N NaOH, 3×5 mL brine), dried, decanted and stripped to give the free base of (S)-2-(trimethylsilyl)ethyl 2-amino-3-cyclohexylpronylcarbamate (5.24 g, 82%). 1H NMR (400 MHz, CDCl3): 5.09 (brs, 1H), 4.14 (t, J=8.4 Hz, 2H), 3.23 (m, 1H) 2.88 (m, 2H), 1.75-1.48 (m, 5H), 1.5-0.75 (m, 10H), 0.05 (s, 9H). MS (E/Z): 301 (M+H+).

reactant | (S)-tert-butyl 1-(2-(trimethylsilyl)ethoxycarbonylamino)-3-cyclohexylpropan-2-ylcarbamate | 0.0213 mol, 8.5 g | C[Si](CCOC(=O)NC[C@H](CC1CCCCC1)NC(OC(C)(C)C)=O)(C)C | C20H40N2O4Si
reactant | ethyl ether | 120 mL | C(C)OCC | C4H10O
reactant | tosic acid | 0.023 mol, 4.46 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | EtOH | 25 mL | CCO | C2H6O
solvent | EtOH H2O | CCO.O
product | (S)-2-(Trimethylsilyl)ethyl 2-amino-3-cyclohexylpropylcarbamate | N[C@H](CNC(OCC[Si](C)(C)C)=O)CC1CCCCC1 | C15H32N2O2Si
